US06593333B1
A mixture of 6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)-3,4-dihydroquinazolin-4-one (2.72 g, 8.9 mmol), thionyl chloride (90 ml) and DMF (0.5 ml) was stirred and heated to reflux for 45 minutes. The mixture was evaporated and the residue was azeotroped with toluene. The residue was taken up in water and basified to pH8 by the addition of a saturated aqueous sodium hydrogen carbonate solution. The aqueous layer was extracted with ethyl acetate (4×400 ml). The combined organic extracts were washed in turn with a saturated aqueous sodium hydrogen carbonate solution, water and brine, dried (MgSO4) and evaporated. The residue was dried overnight at 40° C. under vacuum to give 4-chloro-6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)quinazoline (2.62 g, 91%) as a solid; NMR: (DMSOd6) 1.1 (m, 1H), 1.42-1.96 (m, 5H), 2.09 (m, 1H), 2.15 (s, 3H), 2.6 (d, 1H), 2.8 (d, 1H), 3.98 (s, 3H), 4.1 (d, 2H), 7.35 (s, 1H), 7.42 (s, 1H), 8.84 (s, 1H); Mass: M+H+ 322.

reactant | 6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)-3,4-dihydroquinazolin-4-one | 8.9 mmol, 2.72 g | COC=1C=C2C(NC=NC2=CC1OCC1CN(CCC1)C)=O | C16H21N3O3
reactant | thionyl chloride | 90 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)quinazoline | 2.62 g, 91% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CN(CCC1)C | C16H20ClN3O2
